US08044062B2
To a solution of 2-amino-8-isopropyl-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one (2.88 g, 13.19 mmol) dissolved in 80 mL of DCM at 0° C., (4.21 g, 26.39 mmol) bromine was added. Reaction vessel was removed from ice bath and allowed to react at room temperature over night. LCMS indicated complete conversion of starting material to product. Sample was evaporated to remove DCM and excess bromine. Orange solid was diluted in ethyl acetate and extracted with 10% NaHSO3, H2O, and brine. Organic layer was dried over Na2SO4, filtered, and reduced to dryness yielding 2-amino-6-bromo-8-isopropyl-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one as a light yellow powder (2.2 g, 56% yield). 1H NMR (400 MHz, CDCl3) δ 8.08 (s, 1H), 5.83 (m, 1H), 5.69 (br s, 2H), 2.60 (s, 3H), 1.58 (d, J=6.8, 6H).

reactant | 2-amino-8-isopropyl-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one | 13.19 mmol, 2.88 g | NC=1N=C(C2=C(N1)N(C(C=C2)=O)C(C)C)C | C11H14N4O
reactant | bromine | 26.39 mmol, 4.21 g | BrBr | Br2
solvent | DCM | 80 mL | C(Cl)Cl | CH2Cl2
product | 2-amino-6-bromo-8-isopropyl-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one | 2.2 g, 56% yield | NC=1N=C(C2=C(N1)N(C(C(=C2)Br)=O)C(C)C)C | C11H13BrN4O
